US06458982B1
Preparation of the Indenyllithium Compounds
18.8 ml (30.0 mmol) of a 1.60 molar solution of n-butyllithium in n-hexane are added dropwise at room temperature to a solution of 30.0 mmol of the appropriately substituted indene in 150 ml of diethyl ether. The mixture is stirred at this temperature for two hours. The solvent is removed in an oil pump vacuum and the residue is suspended overnight in 100 ml of pentane. The suspension is filtered through a frit and the residue is washed with a little pentane. The product is dried in an oil pump vacuum.

reactant | n-butyllithium | C(CCC)[Li]
reactant | n-hexane | CCCCCC | C6H14
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | Indenyllithium | C1(C=CC2=CC=CC=C12)[Li] | InChI=1S/C9H7.Li/c1-2-5-9-7-3-6-8(9)4-1;/h1-7H;
